US07592373B2
1.424.a. 1-(4-iodophenyl)cyclopropylamine
3 mL (38.76 mmol) of trifluoroacetic acid are added to a solution of 1 g (2.78 mmol) of tert-butyl [1-(4-iodophenyl)cyclopropyl]carbamate in 40 mL dichloromethane and stirred for 24 h. Then the solvent is eliminated by rotary evaporation and the residue is combined with toluene and then again eliminated by rotary evaporation. This residue is then added to a solution of 0.39 g (2.8 mmol) of potassium carbonate in 20 mL of water and stirred for 30 minutes at RT. The aqueous phase is extracted with dichloromethane, the organic phase is dried with sodium sulfate and the solvent is eliminated by rotary evaporation. Yield: 0.7 g (97% of theory); C9H10IN (M=259.09); calc.: molecular ion peak (M+H)+: 260; found: molecular ion peak (M+H)+: 260.

reactant | trifluoroacetic acid | 38.76 mmol, 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [1-(4-iodophenyl)cyclopropyl]carbamate | 2.78 mmol, 1 g | IC1=CC=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C14H18INO2
reactant | potassium carbonate | 2.8 mmol, 0.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 1-(4-iodophenyl)cyclopropylamine | IC1=CC=C(C=C1)C1(CC1)N | C9H10IN
